US06967197B2
tert-Butyl 2-[4-benzyloxycarbonyl-7-(4-phenoxyphenyl)perhydro-1,1-dioxo-1,4-thiazepin-7-yl]acetate (56 mg) was dissolved in trifluoroacetic acid (6 ml) at room temperature. After being stirred at the same temperature for 2 hours, the reaction mixture was concentrated in vacuo to give 2-[4-benzyloxycarbonyl-7-(4-phenoxyphenyl)perhydro-1,1-dioxo-1,4-thiazepin-7-yl]acetic acid (46 mg) as a powder.

reactant | tert-Butyl 2-[4-benzyloxycarbonyl-7-(4-phenoxyphenyl)perhydro-1,1-dioxo-1,4-thiazepin-7-yl]acetate | 56 mg | C(C1=CC=CC=C1)OC(=O)N1CCS(C(CC1)(C1=CC=C(C=C1)OC1=CC=CC=C1)CC(=O)OC(C)(C)C)(=O)=O | C31H35NO7S
solvent | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[4-benzyloxycarbonyl-7-(4-phenoxyphenyl)perhydro-1,1-dioxo-1,4-thiazepin-7-yl]acetic acid | 46 mg | C(C1=CC=CC=C1)OC(=O)N1CCS(C(CC1)(C1=CC=C(C=C1)OC1=CC=CC=C1)CC(=O)O)(=O)=O | C27H27NO7S
